US07371747B2
Methanesulfonyl chloride (0.140 mL, 1.81 mmol) was added dropwise to a stirred solution of trans-N-cyanomethyl-2-(4-hydroxymethylbenzenesulfonylmethyl)-cyclohexanecarboxamide (0.576 g, 1.645 mmol) and diisopropylethylamine (0.344 mL, 1.97 mmol) in dichloromethane (5 mL) chilled to 5° C. The ice bath was removed and the reaction was allowed to proceed with stirring overnight. The reaction was not complete, so additional diisopropylethylamine (0.172 ml, 1.0 mmol) was added, followed by additional methanesulfonyl chloride (0.070 mL, 0.90 mmol). The reaction was allowed to stir an additional hour at ambient temperature. Dichloromethane (100 mL) was added and the solution was washed with water, 1N HCl, and then saturated aqueous sodium bicarbonate. The organic layer was dried with magnesium sulfate, filtered, and concentrated by rotary evaporation to yield trans-methanesulfonic acid 4-[2-(cyanomethyl-carbamoyl)-cyclohexylmethanesulfonyl]-benzyl ester as a white solid.

reactant | Methanesulfonyl chloride | 1.81 mmol, 0.140 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | trans-N-cyanomethyl-2-(4-hydroxymethylbenzenesulfonylmethyl)-cyclohexanecarboxamide | 1.645 mmol, 0.576 g | C(#N)CNC(=O)[C@H]1[C@@H](CCCC1)CS(=O)(=O)C1=CC=C(C=C1)CO | C17H22N2O4S
reactant | diisopropylethylamine | 1.97 mmol, 0.344 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | diisopropylethylamine | 1.0 mmol, 0.172 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 0.90 mmol, 0.070 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | Dichloromethane | 100 mL | ClCCl | CH2Cl2
product | trans-methanesulfonic acid 4-[2-(cyanomethyl-carbamoyl)-cyclohexylmethanesulfonyl]-benzyl ester | C(#N)CNC(=O)[C@H]1[C@@H](CCCC1)CS(=O)(=O)C1=CC=C(COS(=O)(=O)C)C=C1 | C18H24N2O6S2
